US05352792
To a solution of 7β-D-mandelamido-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (445 mg: 0.502 mMol.) in a mixture of anisole (0.8 ml) and dichloromethane (2 ml) under ice cooling is added trifluoroacetic acid (2 ml), and the mixture is stirred under ice cooling for 30 minutes and at room temperature for 20 minutes. The reaction mixture is diluted with methanol (10 ml) and concentrated. The residue is dissolved in dilute aqueous sodium hydrogen carbonate water, washed with ethyl acetate, acidified with 10% hydrochloric acid, and extracted with ethyl acetate. The extract is dried over sodium sulfate and concentrated. The residue is pulverized with ether to give 7β-D-mandelamido-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid (59.2 mg) as yellowish white powder. Yield: 25%.

reactant | 7β-D-mandelamido-3-(trityl-1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.502 mMol, 445 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC([C@H](O)C2=CC=CC=C2)=O)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C50H41N5O5S3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.8 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
product | 7β-D-mandelamido-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid | 59.2 mg, Yield: 25% | C([C@H](O)C1=CC=CC=C1)(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCSC=2N=NNC2)C(=O)O)C1=O | C18H17N5O5S3
